US08202865B2
Step 2: 5-[5-(2,2′-dimethylbiphenyl-4-yl)-1,2,4-oxadiazol-3-yl]-2-hydroxybenzoic acid
The title compound was prepared following procedure described for example 4, step 2, but starting from methyl 5-[5-(2,2′-dimethylbiphenyl-4-yl)-1,2,4-oxadiazol-3-yl]-2-hydroxybenzoate, obtained in step 1, and using 25 eq. of NaOH at 60° C. for 6 h. Solvents were concentrated and DCM (20 mL) was added. It was washed with HCl 1M. The organic layer was then dried over magnesium sulfate, filtered and concentrated to afford the title compound as a pale orange solid (18 mg; 90%). 1H NMR (DMSO-d6, 300 MHz) δ 8.54 (d, J=2.1 Hz, 1H), 8.22-8.17 (m, 2H), 8.08-8.05 (m, 1H), 7.38-7.28 (m, 4H), 7.19-7.12 (m, 2H), 2.14 (s, 3H), 2.04 (s, 3H). LC/MS (Method A): 385.0 (M−H)−. HPLC (Method A) Rt 5.49 min (Purity: 97.2%).

reactant | methyl 5-[5-(2,2′-dimethylbiphenyl-4-yl)-1,2,4-oxadiazol-3-yl]-2-hydroxybenzoate | CC1=C(C=CC(=C1)C1=NC(=NO1)C=1C=CC(=C(C(=O)OC)C1)O)C1=C(C=CC=C1)C | C24H20N2O4
reactant | NaOH | 25 eq. | [OH-].[Na+]
product | 5-[5-(2,2′-dimethylbiphenyl-4-yl)-1,2,4-oxadiazol-3-yl]-2-hydroxybenzoic acid | 18 mg, 90% | CC1=C(C=CC(=C1)C1=NC(=NO1)C=1C=CC(=C(C(=O)O)C1)O)C1=C(C=CC=C1)C | C23H18N2O4
